US04786649
To a solution of ethyl 2-(2-bromo-4,5-difluorobenzoyl)-3-ethoxyacrylate (1.1 g) in ethanol (10 ml) is added portionwise 2-aminothiophene (0.3 g). After stirring the mixture at room temperature for 30 minutes, the precipitated crystals are separated by filtration to give ethyl 2-(2-bromo-4,5-difluorobenzoyl)-3-(2-thienyl)acrylate (0.9 g).

reactant | ethyl 2-(2-bromo-4,5-difluorobenzoyl)-3-ethoxyacrylate | 1.1 g | BrC1=C(C(=O)C(C(=O)OCC)=COCC)C=C(C(=C1)F)F | C14H13BrF2O4
reactant | 2-aminothiophene | 0.3 g | NC=1SC=CC1 | C4H5NS
solvent | ethanol | 10 ml | C(C)O | C2H6O
product | ethyl 2-(2-bromo-4,5-difluorobenzoyl)-3-(2-thienyl)acrylate | 0.9 g | BrC1=C(C(=O)C(C(=O)OCC)=CC=2SC=CC2)C=C(C(=C1)F)F | C16H11BrF2O3S
